US05670697
5-Bromo-5-chloro-4-hydroxy-2-methyl-6,6,6-trifluorohex-2-ene (10.0 g), trimethyl orthoacetate (16.0 g) and Montmorillonite KSF (0.5 g) were charged to a round-bottomed flask fitted with: nitrogen inlet/bubbler, thermometer and still-head. The mixture was heated with agitation, and the methanol-trimethyl orthoacetate distillates were collected until the reactor temperature increased to 111° C. (ca. 1 hr). The reaction was then heated to 135° C. and held for a further 1 hour. The methanol/trimethyl orthoacetate distillates were recharged and the distillation procedure repeated twice. Once the reaction was complete, the Montmorillonite was removed by filtration. The residual trimethyl orthoacetate was then removed by distillation under vacuum (ca. 50° C. @100 mmHg) to give the product, methyl 6-bromo-6-chloro-3,3-dimethyl-7,7,7-trifluorohept-4-enoate as a brown oil (7.8 g, 59% yield).

reactant | 5-Bromo-5-chloro-4-hydroxy-2-methyl-6,6,6-trifluorohex-2-ene | 10.0 g | BrC(C(C=C(C)C)O)(C(F)(F)F)Cl | C7H9BrClF3O
reactant | trimethyl orthoacetate | 16.0 g | C(C)(OC)(OC)OC | C5H12O3
catalyst | Montmorillonite KSF | 0.5 g | O.[O-2].[O-2].[O-2].O=[Si]=O.O=[Si]=O.O=[Si]=O.O=[Si]=O.[Al+3].[Al+3]
product | methyl 6-bromo-6-chloro-3,3-dimethyl-7,7,7-trifluorohept-4-enoate | 7.8 g, 59% yield | BrC(C=CC(CC(=O)OC)(C)C)(C(F)(F)F)Cl | C10H13BrClF3O2
